US08445510B2
1-{[(4R)-2,2-Dimethyl-1,3-dioxolan-4-yl]methyl}-3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
To a solution of 1-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl}-4-iodo-3,5-dimethyl-1H-pyrazole (180.0 mg, 0.5354 mmol) in THF (5 mL, 60 mmol) was added 2 M isopropylmagnesium chloride in THF (0.5354 mL, 1.071 mmol) at rt, and the mixture was stirred for 10 min. 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.2632 mL, 1.606 mmol) was added, and the mixture stirred at rt for 20 min. The reaction was quenched with sat. NH4Cl, and the organic solvent was removed in vacuo. The material was extracted with DCM and water, and the organic layer was concentrated in vacuo to afford the title compound as a clear oil. The material was used in the next step without further purification.

reactant | 1-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl}-4-iodo-3,5-dimethyl-1H-pyrazole | 0.5354 mmol, 180.0 mg | CC1(OC[C@H](O1)CN1N=C(C(=C1C)I)C)C | C11H17IN2O2
reactant | THF | 60 mmol, 5 mL | C1CCOC1 | C4H8O
reactant | isopropylmagnesium chloride | 2 M | C(C)(C)[Mg]Cl
reactant | THF | 1.071 mmol, 0.5354 mL | C1CCOC1 | C4H8O
reactant | 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.606 mmol, 0.2632 mL | COB1OC(C(O1)(C)C)(C)C | C7H15BO3
product | 1-{[(4R)-2,2-Dimethyl-1,3-dioxolan-4-yl]methyl}-3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OC[C@H](O1)CN1N=C(C(=C1C)B1OC(C(O1)(C)C)(C)C)C)C | C17H29BN2O4
